US05202349
a) 3-(Phenylethynyl)-benzaldehyde oxime
The procedure was the same as described in Example 1b, except there were used 16.5 g of 3-(phenylethynyl)-benzaldehyde, 8.3 g of hydroxylamine hydrochloride and 8.2 g of sodium acetate to give 16.8 g (94.8% of the theoretical yield) of the title compound in form of a yellowish powder (mixture of isomers).

reactant | 3-(phenylethynyl)-benzaldehyde | 16.5 g | C1(=CC=CC=C1)C#CC=1C=C(C=O)C=CC1 | C15H10O
reactant | hydroxylamine hydrochloride | 8.3 g | Cl.NO
reactant | sodium acetate | 8.2 g | C(C)(=O)[O-].[Na+]
product | 3-(Phenylethynyl)-benzaldehyde oxime | C1(=CC=CC=C1)C#CC=1C=C(C=NO)C=CC1 | C15H11NO
